US04432981
C-8. 8-n-Butyl-6-nitro-2-(4-pyridinyl)pyrido[2,3-d]pyrimidin-5(8H)-one--To 7.2 g of concentrated sulfuric acid was added, with stirring and cooling keeping the temperature below 30° C., 10.8 ml of fuming sulfuric acid. To the resulting mixture was added 6.0 ml of fuming nitric acid with stirring, and cooling as necessary to keep the temperature below 30° C. To the stirred mixture of acids at room temperature was added 6.6 g of 8-n-butyl-2-(4-pyridinyl)pyrido[2,3-d]pyrimidin-5(8H)-one. The reaction mixture was heated with stirring, gradually raising the temperature to 90° over a twenty minute period and then maintaining the reaction mixture at 90°-95° C. for ten minutes. The reaction mixture was cooled to 30° C. and added to 500 ml of a mixture of ice and water. The resulting mixture was made basic by adding concentrated ammonium hydroxide and the resulting mixture was allowed to stand for one hour. The separated solid was collected, washed with water, dried at 65° C. in vacuo to produce 6.3 g of 8-n-butyl-6-nitro-2-(4-pyridinyl)pyrido[2,3-d]pyrimidin-5(8H)-one, m.p. 240°-241° C. The product was dissolved in 50 ml of boiling dimethylformamide, the solution treated with decolorizing charcoal and filtered, and the filtrate concentrated to a volume of about 30 ml and cooled to complete precipitation of the product. The product was collected, washed with a small quantity of cold ethanol, and dried at 65° C. in vacuo to produce 5.25 g of 8-n-butyl-6-nitro-2-(4-pyridinyl)pyrido[2,3-d]pyrimidin-5(8H)-one, m.p. 241°-243° C.

reactant | sulfuric acid | 7.2 g | S(O)(O)(=O)=O | H2O4S
reactant | sulfuric acid | 10.8 ml | S(O)(O)(=O)=O | H2O4S
reactant | nitric acid | 6.0 ml | [N+](=O)(O)[O-] | HNO3
reactant | 8-n-butyl-2-(4-pyridinyl)pyrido[2,3-d]pyrimidin-5(8H)-one | 6.6 g | C(CCC)N1C=CC(C2=C1N=C(N=C2)C2=CC=NC=C2)=O | C16H16N4O
reactant | ammonium hydroxide | [OH-].[NH4+]
solvent | water | O | H2O
product | 8-n-butyl-6-nitro-2-(4-pyridinyl)pyrido[2,3-d]pyrimidin-5(8H)-one | 6.3 g | C(CCC)N1C=C(C(C2=C1N=C(N=C2)C2=CC=NC=C2)=O)[N+](=O)[O-] | C16H15N5O3
